US04073770
1-(2'-hydroxyethyl)-2,2,4-trimethyl decahydroquinoline was prepared. 150 milliliters of ethanol and 84.0 grams (0.3 mole) of 2,2,4-trimethyl decahydroquinoline of about 96% cis structure were placed in a reactor vessel equipped for heating and agitation. 15.4 grams (0.35 mole) of ethylene oxide was added dropwise to the reactor vessel and the mix then heated to reflux for 21 hours. The ethanol was then evaporated off and the reaction mixture distilled to yield 10.2 grams of a liquid product boiling at 103° - 105° C. at 0.3 mm Hg. The NMR and mass spectrometer spectra were consistent with the desired product. Calculated contents for the formula C14H27NO are 74.61% carbon, 12.08% hydrogen, and 6.22% nitrogen and the measured contents were 74.62% carbon, 12.11% hydrogen, and 6.13% nitrogen.

reactant | 2,2,4-trimethyl decahydroquinoline | 0.3 mole, 84.0 grams | CC1(NC2CCCCC2C(C1)C)C | C12H23N
reactant | ethylene oxide | 0.35 mole, 15.4 grams | C1CO1 | C2H4O
solvent | ethanol | 150 milliliters | C(C)O | C2H6O
product | 1-(2'-hydroxyethyl)-2,2,4-trimethyl decahydroquinoline | OCCN1C(CC(C2CCCCC12)C)(C)C | C14H27NO
